US08614206B2
tert-butyl 2-(5-chloro-2-fluorophenyl)-4-(1-methyl-5-(4-(benzyloxycarbonylamino)azepan-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate (309 mg, 0.44 mmol), potassium cyclopropyltrifluoroborate (98 mg, 0.66 mmol), palladium acetate (20.0 mg, 0.088 mmol), butyl-di-1-adamantylphosphine (50.1 mg, 0.133 mmol) and cesium carbonate (437 mg, 1.33 mmol) were charged in a 40 mL reaction vial and vacuum purged with nitrogen three times. Toluene (10.8 mL) and water (1.2 mL) were added and the mixture was heated at 105° C. for four days, monitoring with LCMS. The reaction was filtered through Celite and washed thoroughly with methanol. The filtrate was concentrated under reduced pressure and the residue was purified via flash chromatography, eluted with 0 to 100% ethyl acetate in heptane to give tert-butyl 2-(5-cyclopropyl-2-fluorophenyl)-4-(1-methyl-5-(4-(benzyloxycarbonylamino)azepan-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate (192 mg, 62%).

reactant | tert-butyl 2-(5-chloro-2-fluorophenyl)-4-(1-methyl-5-(4-(benzyloxycarbonylamino)azepan-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 0.44 mmol, 309 mg | ClC=1C=CC(=C(C1)C=1SC(=C(N1)C(NC=1C=NN(C1N1CCC(CCC1)NC(=O)OCC1=CC=CC=C1)C)=O)NC(OC(C)(C)C)=O)F | C33H37ClFN7O5S
reactant | potassium cyclopropyltrifluoroborate | 0.66 mmol, 98 mg | C1(CC1)[B-](F)(F)F.[K+]
reactant | butyl-di-1-adamantylphosphine | 0.133 mmol, 50.1 mg | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | cesium carbonate | 1.33 mmol, 437 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 0.088 mmol, 20.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl 2-(5-cyclopropyl-2-fluorophenyl)-4-(1-methyl-5-(4-(benzyloxycarbonylamino)azepan-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 192 mg, 62% | C1(CC1)C=1C=CC(=C(C1)C=1SC(=C(N1)C(NC=1C=NN(C1N1CCC(CCC1)NC(=O)OCC1=CC=CC=C1)C)=O)NC(OC(C)(C)C)=O)F | C36H42FN7O5S
